US05462944
(i) Preparation of 8-t-butyl-2-(phthalimidomethyl)-1,4-dioxaspiro(4,5)decane
A mixture of 8-t-butyl-2-chloromethyl-1,4-dioxaspiro(4,5)decane (10 g, 40 mmol) (prepared as described in EP 281842; see also the references cited in this document for related compounds), potassium phthalimide (8.9 g, 48 mmol) and a catalytic amount of tetra-n-butyl ammonium iodide in DMF (80 ml) were heated to 120° C. for 3 hours. Additional potassium phthalimide (2.8 g, 16 mmol) was then added and heating was continued for 6 hours. The solvent was then evaporated in vacuo and toluene (150 ml) was added. After filtration from insoluble material the organic phase was washed two times with brine (100 ml), dried (MgSO4) and evaporated in vacuo. The resulting residue (22 g) was purified by flash chromatography on silica (toluene/ethylacetate 3:1) yielding the title compound as light yellow crystals (14.5 g, Fp. 97°-115° C.).

reactant | 8-t-butyl-2-chloromethyl-1,4-dioxaspiro(4,5)decane | 40 mmol, 10 g | C(C)(C)(C)C1CCC2(OCC(O2)CCl)CC1 | C13H23ClO2
reactant | potassium phthalimide | 48 mmol, 8.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium phthalimide | 16 mmol, 2.8 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
catalyst | tetra-n-butyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 8-t-butyl-2-(phthalimidomethyl)-1,4-dioxaspiro(4,5)decane | 14.5 g | C(C)(C)(C)C1CCC2(OCC(O2)CN2C(C=3C(C2=O)=CC=CC3)=O)CC1 | C21H27NO4
